US03950528
3-Amino-1-(2-chloro-4-fluorobenzyl)-pyrazol-5-one ##SPC39##
53.8 g of 2-chloro-4-fluorobenzylhydrazine were added dropwise, under nitrogen, to a solution of 49.2 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 250 ml of ethanol, in the course of which the temperature rose from 22° to 32°C. After standing overnight, the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 192°, 25 g (34%).

reactant | 2-chloro-4-fluorobenzylhydrazine | 53.8 g | ClC1=C(CNN)C=CC(=C1)F | C7H8ClFN2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 49.2 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-Amino-1-(2-chloro-4-fluorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=C(C=C1)F)Cl | C10H9ClFN3O
